US07091353B2
3-[(Benzofuran-2-ylmethyl)-amino]-phthalic acid dimethyl ester
Benzofuran-2-carbaldehyde (1.17 ml, 8 mmol) was treated in the same manner as described above for the synthesis of 3-pentylamino-phthalic acid dimethyl ester. The residue (oil) was purified by chromatography (SiO2, 50% methylene chloride/hexane) to give 1.12 g (83%) of product as a yellow oil: 1H NMR (CDCl3) δ 7.50–7.43 (m, 2H), 7.33–7.16 (m, 3H), 6.88–6.84 (m, 2H), 6.58 (s, 1H), 4.54 (d, J=6.1 Hz, 2H), 3.86 (s, 3H), 3.85 (s, 3H).

reactant | Benzofuran-2-carbaldehyde | 8 mmol, 1.17 ml | O1C(=CC2=C1C=CC=C2)C=O | C9H6O2
reactant | 3-pentylamino-phthalic acid dimethyl ester | COC(C=1C(C(=O)OC)=C(C=CC1)NCCCCC)=O | C15H21NO4
product | 3-[(Benzofuran-2-ylmethyl)-amino]-phthalic acid dimethyl ester | 1.12 g, 83% | COC(C=1C(C(=O)OC)=C(C=CC1)NCC=1OC2=C(C1)C=CC=C2)=O | C19H17NO5
